US05688799
A mixture of 2-amino-3-pyridinol (0.10 mol), sodium hydroxide (50%) (30 ml), 1-chlorododecane (0.20 mol) and methyl-tri-octylammonium chloride (8 g) in benzene (300 ml) was stirred overnight at 80° C. The reaction mixture was cooled. The organic layer was separated, washed with 2N NaOH, dried (MgSO4), filtered and the solvent was evaporated. The residue was cooled and the resulting precipitate was filtered off, washed with hexane, petroleum ether and dried, yielding 21 g (75%) of 3-(dodecyloxy)-2-pyridinamine (interm. 2).

reactant | 2-amino-3-pyridinol | 0.10 mol | NC1=NC=CC=C1O | C5H6N2O
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | 1-chlorododecane | 0.20 mol | ClCCCCCCCCCCCC | C12H25Cl
catalyst | methyl-tri-octylammonium chloride | 8 g | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(dodecyloxy)-2-pyridinamine | 21 g, 75% | C(CCCCCCCCCCC)OC=1C(=NC=CC1)N | C17H30N2O
